US09107964B2
5 mg (11.4 μmol equivalents) of 2,2-dimethyl-5-[2-(2-nitro-1H-imidazol-1-yl)ethyl]-5-(p-toluenesulfonyloxymethyl)-1,3-dioxane was dissolved in 1 mL of acetonitrile, 14 mg (34.5 μmol equivalents) of Kryptofix 222 (trade name, Merck), 0.82 g (14.1 μmol equivalents) of potassium fluoride, and 0.4 mg (2.9 μmol equivalents) of potassium carbonate were added thereto, and the mixture was refluxed while heating for 5 hours. After completion of the reaction, water was added and the mixture was extracted three times with chloroform. The combined chloroform layers were dried with anhydrous magnesium sulfate and subsequently concentrated under vacuum. The obtained crude product was purified by silica gel column chromatography to give a trace amount of 2,2-dimethyl-5-fluoromethyl-5-[2-(2-nitro-1H-imidazol-1-yl)ethyl]-1,3-dioxane.

reactant | 2,2-dimethyl-5-[2-(2-nitro-1H-imidazol-1-yl)ethyl]-5-(p-toluenesulfonyloxymethyl)-1,3-dioxane | 11.4 μmol, 5 mg | CC1(OCC(CO1)(COS(=O)(=O)C1=CC=C(C=C1)C)CCN1C(=NC=C1)[N+](=O)[O-])C | C19H25N3O7S
reactant | Kryptofix 222 | 34.5 μmol, 14 mg | C1COCCOCCN2CCOCCOCCN1CCOCCOCC2 | C18H36N2O6
reactant | potassium fluoride | 14.1 μmol, 0.82 g | [F-].[K+]
reactant | potassium carbonate | 2.9 μmol, 0.4 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2,2-dimethyl-5-fluoromethyl-5-[2-(2-nitro-1H-imidazol-1-yl)ethyl]-1,3-dioxane | CC1(OCC(CO1)(CCN1C(=NC=C1)[N+](=O)[O-])CF)C | C12H18FN3O4
